US07473783B2
A mixture of 4-bromo-5-pyridin-2-yl-2H-pyrazol-3-ylamine hydrobromide salt (300 mg, 0.94 mmol), benzoyl isothiocyanate (0.15 mL, 1.12 mmol), pyridine (0.24 mL, 2.97 mmol), 1,4-dioxane (2 mL), and DMSO (2 mL) was heated at 95° C. overnight. The mixture was added to an excess of water, and the resulting precipitate was filtered, and recrystallized from EtOH to afford 190 mg (63%) of N-(3-pyridin-2-yl-1H-pyrazolo[3,4-d]thiazol-5-yl)-benzamide as an off-white solid. 1H NMR (d6-DMSO) δ: 8.85 (s, 1H), 8.02 (m, 4H), 7.51 (m, 3H), 7.21 (m, 1H); HPLC/MS m/z: 322 [MH]+.

reactant | 4-bromo-5-pyridin-2-yl-2H-pyrazol-3-ylamine hydrobromide salt | 0.94 mmol, 300 mg | Br.BrC1=C(NN=C1C1=NC=CC=C1)N
reactant | benzoyl isothiocyanate | 1.12 mmol, 0.15 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | pyridine | 2.97 mmol, 0.24 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | N-(3-pyridin-2-yl-1H-pyrazolo[3,4-d]thiazol-5-yl)-benzamide | 190 mg, 63% | N1=C(C=CC=C1)C1=NNC=2N=C(SC21)NC(C2=CC=CC=C2)=O | C16H11N5OS
